US07795249B2
To a solution of methyl 4-(2-bromophenyl)-2,4-dioxobutanoate (540 mg, 0.0019 mol) in AcOH (4 mL) was added hydrazine monohydrate (67 mg, 0.00208 mol). The reaction mixture was allowed to stir at 130° C. overnight and then concentrated. The residue was dissolved in EtOAc, washed with aq. NaHCO3 and brine, dried over Na2SO4, filtered and concentrated to give methyl 3-(2-bromophenyl)-1H-pyrazole-5-carboxylate (0.516 g, 97%) as a white solid. LCMS: (FA) ES+ 283.2, ES-281.2.

reactant | methyl 4-(2-bromophenyl)-2,4-dioxobutanoate | 0.0019 mol, 540 mg | BrC1=C(C=CC=C1)C(CC(C(=O)OC)=O)=O | C11H9BrO4
reactant | hydrazine monohydrate | 0.00208 mol, 67 mg | O.NN
solvent | AcOH | 4 mL | CC(=O)O | C2H4O2
product | methyl 3-(2-bromophenyl)-1H-pyrazole-5-carboxylate | 0.516 g, 97% | BrC1=C(C=CC=C1)C1=NNC(=C1)C(=O)OC | C11H9BrN2O2
